US07074817B2
A solution of 6-bromo-1H-indole (2.34 g, 11.9 mmol) in dry THF (25 mL) was cooled in an ice bath. Sodium hydride (1.12 g of 60% dispersion in oil, 28.0 mmol) was added. The mixture was stirred for 30 minutes under nitrogen at room temperature, then cooled in an ice bath. Iodomethane (1.6 mL, 26 mmol) was added. The reaction mixture was stirred for 2 hours at room temperature, poured into excess water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was purified by flash chromatography using hexane as an eluant to yield 6-bromo-1-methyl-1H-indole 2.04 g (81.6%, 9.71 mmol) as a yellow oil. 1HNMR (200 MHz, DMSO-d6): δ 7.7 (s, 1H), 7.5 (d, 1H, J=8.6 Hz), 7.35 (d, 1H, J=2.1 Hz), 7.15 (d, 1H, 7.3 Hz), 6.4 (d, 1H, J=1.3 Hz), and 3.75 ppm (s, 3H).

reactant | 6-bromo-1H-indole | 11.9 mmol, 2.34 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | Sodium hydride | 28.0 mmol, 1.12 g | [H-].[Na+]
reactant | Iodomethane | 26 mmol, 1.6 mL | IC | CH3I
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-bromo-1-methyl-1H-indole | 9.71 mmol, 2.04 g, 81.6% | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
